US07973061B2
{4-[2-(3-Chloro-phenyl)-ethylcarbamoyl]-thiazol-2-ylmethyl}-carbamic acid 4-trifluoromethoxy-benzyl ester:
4-Nitrophenylchloroformate (0.1 g, 0.5 mmol) was added to a stirring solution of 4-(trifluoromethoxy)benzyl alcohol (0.09 g, 0.5 mmol), pyridine (0.07 mL, 0.9 mmol), and methylene chloride (2 mL). DMAP (6 mg) was added and the mixture was stirred for 12 hours. The mixture was diluted with saturated ammonium chloride and extracted 3× with methylene chloride. The combined organic layers were washed with 0.5 N NaHSO4 and brine, dried over sodium sulfate, filtered, and concentrated in vacuo. The crude material was purified by flash chromatography (EtOAc/hexane). The 4-nitrophenylcarbamate was mixed with 2-aminomethyl-thiazole-4-carboxylic acid [2-(3-chlorophenyl)ethyl]amide hydrochloride (0.14 g, 0.4 mmol) and DIEA (0.2 mL) in DMF (5 mL). The mixture was stirred for 12 hours. The mixture was diluted EtOAc and water. The layers were separated and the aqueous layer was extracted with 3×EtOAc. The combined organic layers were washed with 5% aqueous lithium chloride and brine, dried over sodium sulfate, filtered, and concentrated in vacuo. The material was purified by flash chromatography (EtOAc/hexane) to afford the title compound (0.11 g, 50%): 1H NMR (400 MHz, d6-DMSO): 8.42 (t, 1H), 8.30 (t, 1H), 8.11 (s, 1H), 7.48 (d, 2H), 7.36 (d, 2H), 7.27 (m, 3H), 7.17 (d, 1H), 5.11 (s, 2H), 4.49 (d, 2H), 3.48 (m, 2H), 2.84 (t, 2H); MS (ESI-LCMS) for C22H20ClF3N3O4S: 514 (MH+).

reactant | 4-Nitrophenylchloroformate | 0.5 mmol, 0.1 g | C1=CC(=CC=C1[N+](=O)[O-])[Cl-]C(=O)[O-]
reactant | 4-(trifluoromethoxy)benzyl alcohol | 0.5 mmol, 0.09 g | FC(OC1=CC=C(CO)C=C1)(F)F | C8H7F3O2
reactant | pyridine | 0.9 mmol, 0.07 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-nitrophenylcarbamate | [N+](=O)([O-])C1=CC=C(C=C1)NC([O-])=O
reactant | 2-aminomethyl-thiazole-4-carboxylic acid [2-(3-chlorophenyl)ethyl]amide hydrochloride | 0.4 mmol, 0.14 g | Cl.ClC=1C=C(C=CC1)CCNC(=O)C=1N=C(SC1)CN
reactant | DIEA | 0.2 mL | CCN(C(C)C)C(C)C | C8H19N
catalyst | DMAP | 6 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | {4-[2-(3-Chloro-phenyl)-ethylcarbamoyl]-thiazol-2-ylmethyl}-carbamic acid 4-trifluoromethoxy-benzyl ester | 0.11 g, 50% | FC(OC1=CC=C(COC(NCC=2SC=C(N2)C(NCCC2=CC(=CC=C2)Cl)=O)=O)C=C1)(F)F | C22H19ClF3N3O4S
